US07319099B2
(b) 1-(4-Cyclobutanesulfonyl-2-fluoro-phenyl)-piperazine hydrochloride
To 2.8 mmol 4-cyclobutanesulfonyl-1,2-difluoro-benzene in 20 ml N,N-dimethylacetamide was added 8.3 mmol piperazine, and the mixture was heated at 80° C. for 45 min. The mixture was then concentrated in vacuo, and the residue was chromatographed on silica gel (eluant: ethyl acetate/methanol gradient). The product-containing fractions were combined and concentrated in vacuo. The residue was resuspended in 100 ml dioxane, and 6.0 mmol HCl (as a 4 M solution in dioxane) was added. After stirring for 10 min, the ensuing white crystals were collected by filtration, washing twice with ether, to afford the title compound.

reactant | 4-cyclobutanesulfonyl-1,2-difluoro-benzene | 2.8 mmol | C1(CCC1)S(=O)(=O)C1=CC(=C(C=C1)F)F | C10H10F2O2S
reactant | piperazine | 8.3 mmol | N1CCNCC1 | C4H10N2
reactant | HCl | 6.0 mmol | Cl | ClH
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-(4-Cyclobutanesulfonyl-2-fluoro-phenyl)-piperazine hydrochloride | Cl.C1(CCC1)S(=O)(=O)C1=CC(=C(C=C1)N1CCNCC1)F | InChI=1S/C14H19FN2O2S.ClH/c15-13-10-12(20(18,19)11-2-1-3-11)4-5-14(13)17-8-6-16-7-9-17;/h4-5,10-11,16H,1-3,6-9H2;1H
